US07723378B2
To a solution of 8-methylene-1,4-dioxa-spiro[4.5]decane (6.0 g, 39 mmol, prepared according to a literature procedure (K. C. Nicolaou, R. L. Magolda, D. A. Claremon, J. Am. Chem. Soc. 102 (1980) 1404-1409)) in toluene (10 mL), a solution of diethyl zinc (100 mL, 1 M in hexane) is added at −40 to −20° C. The mixture is stirred for 10 min before diiodoethane (53.6 g, 200 mmol) is added dropwise over a period of 20 min. The reaction is warmed to rt and stirring is continued for 18 h. The reaction mixture is poured onto ice-cooled sat. aq. NH4Cl solution and extracted twice with diethyl ether. The combined organic extracts are washed with sat. aq. Na2S2O3 and water, dried over Na2SO4, filtered and the solvent of the filtrate is evaporated to give 7,10-dioxa-dispiro[2.2.4.2]dodecane (12.35 g) as a colourless liquid containing approx. 20% of toluene (product volatile).

reactant | 8-methylene-1,4-dioxa-spiro[4.5]decane | C=C1CCC2(OCCO2)CC1 | C9H14O2
reactant | diethyl zinc | 1 M, 100 mL | C(C)[Zn]CC
reactant | diiodoethane | 200 mmol, 53.6 g | IC(C)I | C2H4I2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 7,10-dioxa-dispiro[2.2.4.2]dodecane | 12.35 g | C1CC12CCC1(OCCO1)CC2 | C10H16O2
